US07432258B2
N1-[1-(4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1-methyl-N2-[2-(methyloxy)ethyl]glycinamide
N-(3,4-dichlorophenyl)-N-[2-(methyloxy)ethyl]glycine, lithium salt (100 mg, 0.35 mmol) [1-(4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]methylamine (98 mg, 0.35 mmol), triethylamine (73 uL, 0.53 mmol), and (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (BOP Reagent, 186 mg, 0.42 mmol) were added in that order to a 4 mL screw capped vial that contained 1 mL of anhydrous DMF. The reaction mixture was stirred for 20 hours at room temperature, after which time HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) showed that the reaction was complete. The solvent was removed under vacuum and the residue was dissolved in 2 mL of DMSO, filtered through a 0.2 um PTFE Acrodisk, and purified by reverse-phase HPLC (Xterra Prep RP, 30×150 mm, 35 mL/min, A: acetonitrile B: water (adjusted to pH 10 with NH40H), A: 35 to 99% over 14 min, UV detection at 214 nm) to give the title compound (117 mg, 0.216 mmol, 61%) as a white solid. MS (ES) m/e 540 [M+H]+.

reactant | N-(3,4-dichlorophenyl)-N-[2-(methyloxy)ethyl]glycine | ClC=1C=C(C=CC1Cl)N(CC(=O)O)CCOC | C11H13Cl2NO3
reactant | lithium | 0.35 mmol, 100 mg | [Li] | Li
reactant | triethylamine | 0.53 mmol, 73 uL | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 0.42 mmol, 186 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH3CN H2O | CC#N.O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N1-[1-(4-biphenylyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1-methyl-N2-[2-(methyloxy)ethyl]glycinamide | 0.216 mmol, 117 mg, 61% | C1(=CC=C(C=C1)C(CN1CCCC1)N(C(CN(CCOC)C1=CC(=C(C=C1)Cl)Cl)=O)C)C1=CC=CC=C1 | C30H35Cl2N3O2
